Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical history 
of H. pylori s/p incomplete treatment due to difficulty with 
pills, who presents with months of diarrhea and abdominal pain. 
Interviewed at bedside with his mother and maternal grandmother. 
Patient and mother provide history. He reports that this pain 
began about one year ago, and has been worsening since about 
___. Abdominal pain is described as like "H Pylori". 
Located in mid to lower abdomen, without radiation. He 
previously was treated for H Pylori x2 courses around ___, 
doesn't remember exactly what he was on, reports he didn't 
finish this due to issues swallowing pills. He is not currently 
taking a PPI. Also w/ depression and anxiety as a result of his 
abdominal issues. He has been trying marijuana, which isn't 
significantly helping his symptoms. No association with diet, 
but has been taking certain foods out of his diet to see if this 
helps (has eliminated dairy, trying to eat "healthier" and 
decreasing frequency of fast food - however his mother reports 
that overall their diet is not very healthy). 

An outpatient colonoscopy was negative in ___. Diarrhea has 
been watery, happening ___ times per day. He had an ED visit at 
___ in ___, during which inpatient GI team evaluated him, 
and did not feel he needed to be admitted, recommending 
outpatient follow-up in ___ clinic. Had a RUQUS at that time 
which was negative. As an outpatient had a gastric emptying 
study, which was normal. Also with dark and bright red blood in 
the stool ("on top"), which has been worse over past week. There 
is dyschezia and tenesmus. Has had associated anorexia with 30lb 
weight loss since ___ (reports that he used to be around 140 
lbs, now he is down to around 111 on home scale). He has been 
vomiting every day for months as well, NBNB. No dysuria. No 
fevers, diaphoresis. No cardiopulmonary complaints. He has been 
following with Dr. ___ as an outpatient, and after a 
call-in to their clinic by his mother, he was advised to come to 
the ED for evaluation.

In the ED, initial vitals were 98.0 94 140/75 17 100% RA. Exam 
showed mild epigastric tenderness, nondistended, no 
rebound/guarding, no peritonitic signs, light brown guaiac 
negative stool in the vault. Labs were unremarkable. He received 
viscous lidocane, donnatal 10 mL x 1, and Aluminum-Magnesium 
Hydrox.-Simethicone.

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 
 
Past Medical History:
H Pylori gastritis
 
Social History:
___
Family History:
Negative for colon cancer, celiac disease, IBD. Positive for 
renal cancer.
 
Physical Exam:
Temp: 98.2 PO BP: 116/74 HR: 59 RR: 18 O2 sat: 95%
O2 delivery: RA 

GENERAL: No apparent distress.
EYES: Anicteric and without injection.
ENT: Ears, nose, and oropharynx with very poor dentition and
multiple caries.
CV: Regular, S1 and S2, no murmurs or gallops.
RESP: Lungs clear to auscultation bilaterally without rales,
rhonchi, or wheezes.
GI: Abdomen soft, tender in epigastrum.
MSK: BLE warm, without edema.
SKIN: Warm and well perfused, no lesions, rashes, or ulcerations
noted.
NEURO: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Speech is
fluent, verbal comprehension is intact. Face symmetric, gaze
conjugate and EOMI, gross motor function intact and symmetric in
all four extremities.

 
Pertinent Results:
SIGNIFICANT LABS: 
===============
___ 12:59PM BLOOD WBC-5.4 RBC-4.87 Hgb-14.3 Hct-42.2 MCV-87 
MCH-29.4 MCHC-33.9 RDW-12.7 RDWSD-39.9 Plt ___
___ 06:30AM BLOOD IgA-185
___ 06:30AM BLOOD ___
___ 12:59PM BLOOD CRP-13.5*
___ 06:30AM BLOOD 25VitD-15*
 
Brief Hospital Course:
Mr. ___ is a ___ male with PMhx of H Pylori who 
presents with worsening abdominal complaints over the past year.

# IBS:
#Functional dyspepsia: 
Patient has had one year of abdominal symptoms, and thus far 
despite relatively extensive GI work-up that to date has not 
elucidated a precise etiology. GI team has evaluated the patient 
and feel that symptoms most consistent with functional dyspepsia 
with visceral hypersensitivity, likely magnified in the setting 
of untreated anxiety/depression. A Patient will benefit from a 
biopsychosocial approach to his symptoms.He was discharged on 
trial of rifaximin for IBS and an PPI for possible GERD.

#Anxiety/depression: 
Patient denied suicidal or homicidal thoughts, but markedly 
depression. Unclear if adjustment disorder secondary to ongoing 
GI symptoms or if GI symptoms are a somatic manifestation of his 
depression, perhaps both. Patient started on amitriptyline 25mg 
qHS to help both with his depression/anxiety but also his GI 
symptoms. Social work met with the patient and provided 
outpatient resources for counseling. Quick follow up was 
arranged with his PCP with recommendation for referral to a 
psychiatrist for ongoing treatment of his anxiety/depression. 

TRANSITIONAL ISSUES: 
=================
[] patient started on amitriptyline to help with 
depression/anxiety and functional GI symptoms. Please monitor 
for adverse effects and titrate as indicated.
[] Recommend outpatient psychiatry and counseling care

> 30 min spent on coordination of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Amitriptyline 25 mg PO QHS 
RX *amitriptyline 25 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  rifAXIMin 550 mg PO/NG TID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth three times 
a day Disp #*36 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Functional dyspepsia
# IBS
# Depression/anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a priviliege to care for you at the ___ 
___. You were admitted for further evaluation of your 
abdominal pain. You were seen by our Gastroenterology team who 
extensively reviewed your record and feel that no further 
imaging or endoscopies are needed at this time. We feel that 
your symptoms are due to functional dyspepsia and likely 
irritable bowel. The cornerstone to treatment will be focused at 
symptom reduction. We have prescribed you a two week course of 
an antibiotic to take, which has been shown to improve symptoms. 
We also encourage that you continue taking the antacid 
medication. 

Lastly, as we discussed, treatment of underlying 
depression/anxiety is also an essential component to your 
treatment. We have started you on a medication that can help 
with your anxiety/depression that is also helpful for your other 
symptoms. It is very important that you take this medication 
consistently (unless you have intolerable side effects). We are 
working with your primary care doctor, ___, to coordinate 
mental health follow up. You have also been given contact 
information for therapist by our social worker. 

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best! 

Sincerely,

Your ___ team 

 
Followup Instructions:
___